US04751320
Dichlorophosphoridate was obtained by using 100.0 g (0.29 mol) of mono(2-hydroxy-3-lauryloxypropyl) phosphoric acid and 105.0 g (0.88 mol) of thionyl chloride. Then, 55.4 g (0.70 mol) of pyridine and 179.6 g (0.52 mol) of benzyl-N-benzylcarbonyl serine were dissolved in 100 ml of chloroform and stirred at 0° C. for 4 hours. Then, the reaction temperature was raised to room temperature and agitation was effected for 4 hours. After the reaction was completed, 100 ml of water were added and stirred at 20° C. for one hour. Then, the solvent was distilled off and the residue was extracted from ethylether. The thus obtained residue was dissolved in methanol and hydrogen was blown while refluxing methanol by heating to effect hydrogenation reaction for about 10 hours at a normal pressure by using a palladium/carbon catalyst at a normal pressure. After the reaction was completed, the residue obtained by distilling off methanol was purified on silica gel column chromatography (eluent/chloroform:methanol=90:10), to obtain 39.7 g of aimed 2-amino-2-carboxyethyl-(2-hydroxy-3-lauryloxypropyl) phosphoric acid as a white solid (0.09 mol, yield 32.0%).

reactant | mono(2-hydroxy-3-lauryloxypropyl) phosphoric acid | 0.29 mol, 100.0 g | OC(COP(O)(O)=O)COCCCCCCCCCCCC | C15H33O6P
reactant | thionyl chloride | 0.88 mol, 105.0 g | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 0.70 mol, 55.4 g | N1=CC=CC=C1 | C5H5N
reactant | benzyl-N-benzylcarbonyl serine | 0.52 mol, 179.6 g | C(C1=CC=CC=C1)N([C@@H](CO)C(=O)O)C(=O)CC1=CC=CC=C1 | C18H19NO4
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | palladium/carbon | [Pd] | Pd
solvent | water | 100 ml | O | H2O
product | 2-amino-2-carboxyethyl-(2-hydroxy-3-lauryloxypropyl) phosphoric acid | 0.09 mol, 39.7 g, yield 32.0% | NC(COP(OCC(COCCCCCCCCCCCC)O)(O)=O)C(=O)O | C18H38NO8P
